US04371644
2,2-bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propoxy]phenyl}propane (Compound No. 126)
To 50 ml of t-butanol were added 3.5 g of 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane and 5.0 g of 7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]decane; the mixture was then reacted following the procedure described in Example 21 to give the desired Compound No. 126 in the form of a white powder having an Rf value of 0.38 on thin-layer chromatography on silica gel developed with a 20:2:1 by volume mixture of benzene, ethyl acetate and triethylamine.

reactant | 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane | 3.5 g | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2CO2)C1 | C21H24O4
reactant | 7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]decane | 5.0 g | CC1(CC2(OCCO2)CC(N1)(C)C)C | C11H21NO2
solvent | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | 2,2-bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propoxy]phenyl}propane | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(CC2(OCCO2)CC1(C)C)(C)C)O)CN1C(CC2(OCCO2)CC1(C)C)(C)C | C43H66N2O8
